US08383657B2
(3R)-3-fluoro-N-1,3-thiazol-2-ylpyrrolidine-1-carboxamide
A solution of 2-aminothiazole (10.02 g, 100 mmol) and pyridine (8.3 mL, 103 mmol) in anhydrous acetonitrile (300 mL) was added to a thick suspension of N,N′-disuccinimidyl carbonate (26.13 g, 102 mmol) in acetonitrile (25 mL) with a small acetonitrile rinse. The mixture was stirred thoroughly for another 20 minutes, and then (R)-3-fluoropyrrolidine hydrochloride (13.06 g, 104 mmol) and diisopropylethylamine (70 mL, 402 mmol) were added and the reaction was stirred at room temperature overnight before being concentrated under vacuum. The residue was dissolved into ethyl acetate (100 mL), and then partitioned with hexanes (20 mL) and 3:1 water/brine (20 mL). The aqueous phase was separated and repeatedly back-extracted with 5:1 ethyl acetate/hexanes. The combined organic phases were washed with brine, and the aqueous phase was back-extracted with more 5:1 solution. The combined organic phases were then concentrated. The solids were dissolved into 6:1 dichloromethane/hexanes, mixed with 4:1 water/brine, and filtered through diatomaceous earth with a 6:1 dichloromethane/hexanes rinse. The filtrate was washed with more dilute brine, and the aqueous phase was separated and back-extracted with more 6:1 solution. This wash with dilute brine was repeated two more times. Then the organic phase was dried (sodium sulfate) and concentrated under vacuum to give the title compound.

reactant | 2-aminothiazole | 100 mmol, 10.02 g | NC=1SC=CN1 | C3H4N2S
reactant | pyridine | 103 mmol, 8.3 mL | N1=CC=CC=C1 | C5H5N
reactant | N,N′-disuccinimidyl carbonate | 102 mmol, 26.13 g | C1CC(=O)N(C1=O)OC(=O)ON2C(=O)CCC2=O | C9H8N2O7
reactant | (R)-3-fluoropyrrolidine hydrochloride | 104 mmol, 13.06 g | Cl.F[C@H]1CNCC1
reactant | diisopropylethylamine | 402 mmol, 70 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | acetonitrile | 300 mL | C(C)#N | C2H3N
solvent | acetonitrile | 25 mL | C(C)#N | C2H3N
product | (3R)-3-fluoro-N-1,3-thiazol-2-ylpyrrolidine-1-carboxamide | F[C@H]1CN(CC1)C(=O)NC=1SC=CN1 | C8H10FN3OS
